US07598417B2
5-Fluoro-indan-2-carboxylic acid:
5-fluoro-indan-2-carboxylic acid methyl ester in HOAc containing 20% HCl was hydrolyzed according to the protocols as outlined in general procedure G to give the desired title acid. Spectroscopic data: 1H NMR (300 MHz, DMSO-d6) δ 3.02-3.16 (m, 4H), 3.25-3.37 (m, 1H), 6.90-6.98 (m, 1H), 7.01-7.07 (m, 1H), 7.17-7.25 (m, 1H), 12.3 (br s, 1H).

reactant | 5-fluoro-indan-2-carboxylic acid methyl ester | COC(=O)C1CC2=CC=C(C=C2C1)F | C11H11FO2
solvent | HOAc | CC(=O)O | C2H4O2
product | 5-Fluoro-indan-2-carboxylic acid | FC=1C=C2CC(CC2=CC1)C(=O)O | C10H9FO2
